US07348337B2
Preparation of 1-[4-(1-Phenyl-1-(5-methyl-1,3,4-oxadiazol-2-yl)-methylene)-piperidin-1-yl]-2-(4-methoxy-7-(5-methylpyrazole-3-yl)-6-azaindol-3-yl)-ethane-1,2-dione.
To a solution of 4-[1-phenyl-1-(5-methyl-1,3,4-oxadiazol-2-yl)methylene]piperidine-1-carboxylic acid tert-butyl ester (0.0430 g, 0.167 mmol) in CH2Cl2 (2 mL) was added TFA (0.3 mL) and the reaction mixture was stirred for 30 min. The solvent was then removed in vacuo and the residual material was dissolved in CHCl3 (2 mL). To this solution was added 4-methoxy-7-(2-methylpyrazol-5-yl)-6-azaindol-3-yl-oxoacetic acid hydrochloride salt (0.050 g, 0.167 mmol) and iPrNEt2 (0.145 mL, 0.833 mmol), followed by BOP—Cl (0.0590 g, 0.233 mmol). The mixture was allowed to stir at rt for 2 h and then the solvent was removed in vacuo. The residue was diluted with H2O and extracted with EtOAc (×3). The combined organic layers were washed (H2O, brine), dried (Na2SO4) and concentrated and the residue was purified by preparative HPLC (TFA) to give the title compound (0.0053 g, 6%) as a colorless solid:

reactant | 4-[1-phenyl-1-(5-methyl-1,3,4-oxadiazol-2-yl)methylene]piperidine-1-carboxylic acid tert-butyl ester | 0.167 mmol, 0.0430 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C=1OC(=NN1)C)C1=CC=CC=C1 | C20H25N3O3
reactant | TFA | 0.3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-methoxy-7-(2-methylpyrazol-5-yl)-6-azaindol-3-yl-oxoacetic acid hydrochloride salt | 0.167 mmol, 0.050 g | Cl.COC1=C2C(=CNC2=C(N=C1)C=1C=CN(N1)C)C(C(=O)O)=O
reactant | iPrNEt2 | 0.833 mmol, 0.145 mL | C(C)(C)N(CC)CC | C7H17N
reactant | BOP—Cl | 0.233 mmol, 0.0590 g | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(1-Phenyl-1-(5-methyl-1,3,4-oxadiazol-2-yl)-methylene)-piperidin-1-yl]-2-(4-methoxy-7-(5-methylpyrazole-3-yl)-6-azaindol-3-yl)-ethane-1,2-dione | 0.0053 g, 6% | C1(=CC=CC=C1)C(C=1OC(=NN1)C)=C1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)C1=NNC(=C1)C)=O | C29H27N7O4
